US08686002B2
3. (2-Amino-6-methoxyquinolin-3-yl)(2-methoxyphenyl)methanone
(2-Chloro-6-methoxyquinolin-3-yl)(2-methoxyphenyl)methanone (3.4 g, 10.4 mmol) was dissolved in dioxane (25 mL), mixed with 25% aqueous ammonia solution (15 mL) and heated for 30 hours to 150° C. under intrinsic pressure in the pressurized reactor. After cooling, the reaction mixture was diluted with methanol, prepurified with activated carbon and concentrated after filtration. The crude product was dissolved in dichloromethane and washed with water. The dichloromethane solution was dried (sodium sulfate) and concentrated. The crude product was purified chromatographically (silica gel, dichloromethane, 0-2% methanol). Yield: 1.4 g (4.5 mmol, 44%).

reactant | (2-Chloro-6-methoxyquinolin-3-yl)(2-methoxyphenyl)methanone | 10.4 mmol, 3.4 g | ClC1=NC2=CC=C(C=C2C=C1C(=O)C1=C(C=CC=C1)OC)OC | C18H14ClNO3
reactant | ammonia | 15 mL | N | H3N
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | (2-Amino-6-methoxyquinolin-3-yl)(2-methoxyphenyl)methanone | NC1=NC2=CC=C(C=C2C=C1C(=O)C1=C(C=CC=C1)OC)OC | C18H16N2O3
